US07592453B2
(3aS*,4R*,9bR*)-4-(4-Fluorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline
A mixture of benzyl (3aR*,4R*,9bR*)-4-(4-fluorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate (500 mg, 1.24 mmol) and 10% palladium on carbon (50% aqueous, 0.3 g) in ethanol (20 ml) was stirred at room temperature under hydrogen atmosphere for 2 hrs. The catalyst was filtered off, and the mixture was washed with ethanol. The solvent was evaporated under reduced pressure to give the title compound (350 mg, ca. 100%) as an oil.

reactant | benzyl (3aR*,4R*,9bR*)-4-(4-fluorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 1.24 mmol, 500 mg | FC1=CC=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OCC2=CC=CC=C2 | C25H23FN2O2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3aS*,4R*,9bR*)-4-(4-Fluorophenyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline | 350 mg, ca. 100% | FC1=CC=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2 | C17H17FN2
